US08198456B2
Lithium aluminum hydride (45 mg, 1.2 mmol) was added portion-wise to a cooled solution of 5-(3,5-dicyano-1,4-dihydro-2,6-dimethyl-4-pyridinyl)-N-methoxy-N-methyl-1H-indazole-3-carboxamide (340 mg, 0.94 mmol) in THF (20 mL). After 30 min, the mixture was heated up to 60° C. After 2 hr, the reaction was quenched by the slow addition of ethyl acetate at 5° C. and 0.4 N NaHSO4. The organic layer was washed with brine, dried with Na2SO4, and concentrated. The crude product was purified by column to give 4-(3-formyl-1H-indazol-5-yl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile (200 mg, 70%) (Cpd. No. 145, Table 2). 1H-NMR (400 MHz, DMSO-D6): δ=10.18 (s, 1H), 9.58 (s, 1H), 7.98 (d, 1H), 7.76 (d, 1H), 7.46 (d, 1H), 4.65 (s, 1H), 2.03 (s, 6H) ppm.

reactant | Lithium aluminum hydride | 1.2 mmol, 45 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-(3,5-dicyano-1,4-dihydro-2,6-dimethyl-4-pyridinyl)-N-methoxy-N-methyl-1H-indazole-3-carboxamide | 0.94 mmol, 340 mg | C(#N)C1=C(NC(=C(C1C=1C=C2C(=NNC2=CC1)C(=O)N(C)OC)C#N)C)C | C19H18N6O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(3-formyl-1H-indazol-5-yl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile | 200 mg, 70% | C(=O)C1=NNC2=CC=C(C=C12)C1C(=C(NC(=C1C#N)C)C)C#N | C17H13N5O
